US06403791B1
2-(Azetidin-1-yl)-4-difluoromethoxybenzooxazole-7-carboxylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)-amide
Starting from 2-(azetidin-1-yl)-4-difluoromethoxybenzooxazole-7-carboxylic acid 4-nitro-phenyl ester (178 mg) and 5-amino-1-methyl-1H-pyrazole-4-carbonitrile (107 mg). Purification by column chromatography on silica eluting with 3% methanol in dichloromethane followed by trituration in diethyl ether afforded the title compound as a white solid (124 mg).

reactant | 2-(azetidin-1-yl)-4-difluoromethoxybenzooxazole-7-carboxylic acid 4-nitro-phenyl ester | 178 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C1=CC=C(C=2N=C(OC21)N2CCC2)OC(F)F | C18H13F2N3O6
reactant | 5-amino-1-methyl-1H-pyrazole-4-carbonitrile | 107 mg | NC1=C(C=NN1C)C#N | C5H6N4
product | 2-(Azetidin-1-yl)-4-difluoromethoxybenzooxazole-7-carboxylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)-amide | 124 mg | C(#N)C1=C(N(N=C1)C)NC(=O)C1=CC=C(C=2N=C(OC21)N2CCC2)OC(F)F | C17H14F2N6O3
